US05972949
To a mixture of 5 ml of anhydrous N,N-dimethylformamide and 51 mg of sodium hydride (60% oil dispersion) is added dropwise an anhydrous N,N-dimethylformamide (3 ml) solution of 121 mg of 2-hydroxypyridine under stirring over 10 minutes. After stirring at room temperature for 1 hour, the mixture is cooled to 5° to 10° C., to which an anhydrous N,N-dimethylformamide (2 ml) solution of 300 mg of 2-[4-(2-2H-1,2,3-triazolyl)methylphenoxy]ethyl bromide is added dropwise over 30 minutes. The mixture is then stirred at room temperature overnight. The reaction mixture is poured into 50 ml of ice water, which is extracted with twice with 30 ml of toluene. The organic layers are combined, washed with water, dried with anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue is subjected to silica gel column chromatography, which affords 4-(2-2H-1,2,3-triazolyl)methylphenyl 2-(2-pyridyloxy)ethyl ether.

reactant | sodium hydride | 51 mg | [H-].[Na+]
reactant | 2-hydroxypyridine | 121 mg | OC1=NC=CC=C1 | C5H5NO
reactant | 2-[4-(2-2H-1,2,3-triazolyl)methylphenoxy]ethyl bromide | 300 mg | N=1N(N=CC1)CC1=CC=C(OCCBr)C=C1 | C11H12BrN3O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-(2-2H-1,2,3-triazolyl)methylphenyl 2-(2-pyridyloxy)ethyl ether | N1=C(C=CC=C1)OCCOC1=CC=C(C=C1)CN1N=CC=N1 | C16H16N4O2
